US07728150B2
1-Ethyl-5-fluoro-indan-1-ol
Add ethyl magnesium bromide (1.3 ml, 3.90 mmol, 1.30 equivalents, 3.0 M in tetrahydrofuran) drop wise to a solution of 5-fluoroindanone (450 mg, 3.00 mmol) in. anhydrous ether (5 ml) under nitrogen at room temperature and stir overnight. Quench the reaction by drop wise addition of 10% aqueous ammonium chloride, dilute with ether, wash with water (2×), dry over anhydrous sodium sulfate, filter, and concentrate to obtain the'title compound (502 mg, 93%). NMR (400 MHz, CDCl3): δ 0.94 (t, 3H), 1.79 (m, 1H), 1.92 (m, 1H), 2.12 (m, 1H), 2.31 (m, 1H), 2.81 (m, 1H), 2,98 (m, 1H), 6.91 (m, 2H), 7.24 (m, 1H).

reactant | ethyl magnesium bromide | 3.90 mmol, 3.0 M, 1.3 ml, 1.30 equivalents | C(C)[Mg]Br
reactant | 5-fluoroindanone | 3.00 mmol, 450 mg | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 1-Ethyl-5-fluoro-indan-1-ol | 502 mg, 93% | C(C)C1(CCC2=CC(=CC=C12)F)O | C11H13FO
